US07399759B2
tert-Butyl 3-[2-(7-chloro-4-oxo-4H-1,3-benzothiazin-2-yl)-6-methyl-4-pyridyl]propanoate
tert-Butyl 3-(2-cyano-6-methyl-4-pyridyl)propanoate (1.6 g, 6.5 mmol) and 4-chlorothiosalicylic acid (2.4 g, 13.1 mmol) were dissolved in pyridine (20 ml). The mixture was refluxed for 24 hrs. The solvent was evaporated, and residue was subjected to a silica gel column chromatography. The fractions eluted with hexane-ethyl acetate (2:1, v/v) were collected, concentrated and recrystallized from hexane-ethyl acetate to give the titled compound (1.2 g, 46%) as pale yellow crystals.

reactant | tert-Butyl 3-(2-cyano-6-methyl-4-pyridyl)propanoate | 6.5 mmol, 1.6 g | C(#N)C1=NC(=CC(=C1)CCC(=O)OC(C)(C)C)C | C14H18N2O2
reactant | 4-chlorothiosalicylic acid | 13.1 mmol, 2.4 g | ClC=1C=C(C(C(=O)O)=CC1)S | C7H5ClO2S
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | tert-Butyl 3-[2-(7-chloro-4-oxo-4H-1,3-benzothiazin-2-yl)-6-methyl-4-pyridyl]propanoate | 1.2 g, 46% | ClC1=CC2=C(C(N=C(S2)C2=NC(=CC(=C2)CCC(=O)OC(C)(C)C)C)=O)C=C1 | C21H21ClN2O3S
